### PR TITLE
feat(Combinatorics): partitions and pentagonal numbers

### PR DESCRIPTION
**Pull request by wwylele**
We prove a corollary of pentagonal number theorem: the number of partitions with odd number of distinct parts and the number of partitions with even number of distinct parts are either equal (n is not pentagonal), or (-1)^k for the k-th pentagonal number 

---

- [ ] depends on: #33143
- [ ] depends on: #43220

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by wwylele** [comment]
This is ready for review

File: Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean [hunk 1]
```diff
@@ -0,0 +1,83 @@
...
+/-- The generating function for `#(evenCountDistincts n) - #(oddCountDistincts n)` is
+$\prod_{n=1}^{\infty} (1 - x^n)$. -/
+public theorem hasProd_powerSeriesMk_card_evenCountDistincts_sub_card_oddCountDistincts
+    [TopologicalSpace R] :
+    HasProd (fun i ↦ 1 - X ^ (i + 1))
+      (PowerSeries.mk fun n ↦ (#(evenCountDistincts n) - #(oddCountDistincts n) : R)) := by
+  simp_rw [card_evenCountDistincts_sub_card_oddCountDistincts]
+  convert hasProd_one_sub_X_pow R
+  ext n
+  simp
```
Comment (CoolRmal) [inline Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean]:
```suggestion
  convert hasProd_one_sub_X_pow R
  ext n
  simpa using card_evenCountDistincts_sub_card_oddCountDistincts R n
```

File: Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean [hunk 2]
```diff
@@ -0,0 +1,83 @@
...
+-/
+
+variable (R : Type*) [CommRing R]
+
+namespace Nat.Partition
+open PowerSeries PowerSeries.WithPiTopology Finset
+
+/-- This is a private intermediate lemma. See the public version that removes `[T2Space R]`
+`hasProd_powerSeriesMk_card_evenCountDistincts_sub_card_oddCountDistincts`. -/
+theorem hasProd_powerSeriesMk_card_evenCountDistincts_sub_card_oddCountDistincts'
```
Comment (CoolRmal) [inline Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean]: Shouldn't this be `private theorem`? (and also I found a bit weird to make the other theorems below public as I rarely see that, but I think you probably know much more about this than I do.)

File: Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+    [TopologicalSpace R] [T2Space R] :
+    HasProd (fun i ↦ 1 - X ^ (i + 1))
+      (PowerSeries.mk fun n ↦ (#(evenCountDistincts n) - #(oddCountDistincts n) : R)) := by
+  nontriviality R using Subsingleton.eq_one
```
Comment (CoolRmal) [inline Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean]:
```suggestion
```

File: Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean [hunk 4]
```diff
@@ -0,0 +1,83 @@
...
+  convert! ← hasProd_genFun (fun i c ↦ if c = 1 then (-1 : R) else 0) using 1
+  · ext1 i
+    simp [sub_eq_add_neg]
```
Comment (CoolRmal) [inline Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean]:
```suggestion
  · simp [sub_eq_add_neg]
```

File: Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean (hunk 2 above)
Comment (CoolRmal) [reply Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean]: After some thoughts I think you should first drop the `[T2Space]` assumption in `hasProd_genFun` (and lemmas used to prove it). The idea is the same: you just endow `R` with the discrete topology. You probably want to open another PR for this.

File: Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean [hunk 5]
```diff
@@ -0,0 +1,83 @@
...
+  `PowerSeries.coeff_pentagonalSeries_pentagonal`) -/
+public theorem card_evenCountDistincts_sub_card_oddCountDistincts (n : ℕ) :
+    (#(evenCountDistincts n) - #(oddCountDistincts n) : R) = (pentagonalSeries R).coeff n  := by
+  let : TopologicalSpace R := ⊥
+  have : DiscreteTopology R := ⟨rfl⟩
+  have h := (hasProd_powerSeriesMk_card_evenCountDistincts_sub_card_oddCountDistincts' R).unique
+     (hasProd_one_sub_X_pow R)
+  have hcoeff := congr(coeff n $h)
+  rw [coeff_mk] at hcoeff
+  exact hcoeff
```
Comment (CoolRmal) [inline Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean:49]:
```suggestion
  simpa using congr(coeff n $h)
```

File: Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean [hunk 6]
```diff
@@ -0,0 +1,83 @@
...
+open PowerSeries PowerSeries.WithPiTopology Finset
+
+/-- This is a private intermediate lemma. See the public version that removes `[T2Space R]`
+`hasProd_powerSeriesMk_card_evenCountDistincts_sub_card_oddCountDistincts`. -/
+theorem hasProd_powerSeriesMk_card_evenCountDistincts_sub_card_oddCountDistincts'
+    [TopologicalSpace R] [T2Space R] :
+    HasProd (fun i ↦ 1 - X ^ (i + 1))
+      (PowerSeries.mk fun n ↦ (#(evenCountDistincts n) - #(oddCountDistincts n) : R)) := by
+  nontriviality R using Subsingleton.eq_one
+  convert! ← hasProd_genFun (fun i c ↦ if c = 1 then (-1 : R) else 0) using 1
```
Comment (CoolRmal) [inline Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean]: Why don't we prove a slightly more general theorem by replacing `-1 : R` with an arbitrary `z : R`? Or even a weight `w : ℕ → R`?

Image

and then prove the following formulae:

Image

File: Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean (hunk 2 above)
Comment (CoolRmal) [reply Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean]: After some thoughts I think you can avoid this issue by reconsidering theorems in Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean. 
In particular, my AI confirms that you can prove the following theorem:

```
theorem Nat.Partition.hasProd_one_add_powerSeriesMk_genFun {R : Type*} [CommSemiring R]
    [TopologicalSpace R] (f : ℕ → ℕ → R) :
    HasProd (fun i ↦ 1 + PowerSeries.mk fun n ↦ 
      if 0 < n ∧ i + 1 ∣ n then f (i + 1) (n / (i + 1)) else 0) (genFun f) := by
  sorry
```
You can then use this theorem instead of `hasProd_genFun`. This allows you to drop the `[T2Space R]` assumption and thus there is no need to create a pair of public and private theorems.

And another completely optional task that you can do: only `[T1Space R]` is needed in `hasProd_genFun`.

**Comment by CoolRmal** [comment]
awaiting-author

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean [hunk 7]
```diff
@@ -230,6 +230,14 @@ theorem countRestricted_two (n : ℕ) : countRestricted n 2 = distincts n := by
 def oddDistincts (n : ℕ) : Finset n.Partition :=
   odds n ∩ distincts n
 
+/-- The finset of those partitions in which there are an odd number of distinct parts. -/
```
Comment (CoolRmal) [inline Mathlib/Combinatorics/Enumerative/Partition/Basic.lean:233]:
```suggestion
/-- The finset of partitions into distinct parts with an odd number of parts. -/
```

File: Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean [hunk 8]
```diff
@@ -0,0 +1,83 @@
...
+    · simp [hdup, hodd, not_even_iff_odd.mpr hodd]
+  · obtain ⟨i, hi⟩ : ∃ i, 1 < k.parts.count i := by
+      simpa [Multiset.nodup_iff_count_le_one] using hdup
+    have hic : (fun i ↦ if k.parts.count i = 1 then (-1 : R) else 0) i = 0 := by
+      simp [hi.ne.symm]
+    have hmem : i ∈ k.parts.toFinset := by simpa using Multiset.one_le_count_iff_mem.mp hi.le
+    simpa [hdup, Finsupp.prod] using prod_eq_zero hmem hic
+
+/-- The difference between `#(evenCountDistincts n)` and `#(oddCountDistincts n)` equals the `n`-th
+  coefficent of `pentagonalSeries R`, which is `(-1)^k` for the `k`-th pentagonal number, and `0`
```
Comment (CoolRmal) [inline Mathlib/Combinatorics/Enumerative/Partition/Pentagonal.lean:38]:
```suggestion
  coefficient of `pentagonalSeries R`, which is `(-1)^k` for the `k`-th pentagonal number, and `0`
```

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean [hunk 9]
```diff
@@ -230,6 +230,14 @@ theorem countRestricted_two (n : ℕ) : countRestricted n 2 = distincts n := by
...
+def oddCountDistincts (n : ℕ) : Finset n.Partition :=
+  (distincts n).filter fun x ↦ Odd x.parts.card
+
+/-- The finset of those partitions in which there are an even number of distinct parts. -/
```
Comment (CoolRmal) [inline Mathlib/Combinatorics/Enumerative/Partition/Basic.lean:237]:
```suggestion
/-- The finset of partitions into distinct parts with an even number of parts. -/
```

**Review by CoolRmal — COMMENTED** [review]
Some suggestions for the docstring.

**Comment by wwylele** [comment]
Thanks for the review. It has been awhile since I started the code about the generating function for partitions, and I have since thought more about it. I particularly like the comment about use `PowerSeries.mk fun n ↦ if 0 < n ∧ i + 1 ∣ n then f (i + 1) (n / (i + 1)) else 0)`, because that was one of the alternative statement I had in mind, but I dropped for aesthetic reason. Looking back, I started liking it again because it can help with dropping a bunch of usage of `[T2Space R]`

I am going to work on refactoring the existing `GenFun.lean` file and make it a dependency of this one. It can take a while.

**Comment by wwylele** [comment]
I have opened #43220 to refactor the generating function to remove T2Space
